US08420816B2
Step C: (R)-tert-butyl 2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoate
To a stirred solution of (R)-tert-butyl 2-(6-fluoro-3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoate (933 mg, 1.860 mmol) in MeOH (4 mL) was added aqueous NaOH (1N, 2 mL). The reaction mixture was stirred at 25° C. for 40 min. The reaction was partitioned between DCM and brine. The organics were dried over MgSO4 and concentrated. Purification by silica column chromatography (MeOH/DCM, 0-5%) afforded the title compound as a yellow oil (0.39 g, 60.4%). [M+H] calc'd for C18H22FN3O3, 348; found, 348.5.

reactant | (R)-tert-butyl 2-(6-fluoro-3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoate | 1.860 mmol, 933 mg | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)OC(C)(C)C)C(C)C)=O)=CN2S(=O)(=O)C2=CC=C(C)C=C2 | C25H28FN3O5S
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
product | (R)-tert-butyl 2-(6-fluoro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoate | 0.39 g, 60.4% | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)OC(C)(C)C)C(C)C)=O)=CN2 | C18H22FN3O3
